US08293768B2
Synthesis of N-(4-methylthiazol-2-yl)-4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzamide
Following the procedure as describe in Example 8, making variations as required to replace benzylamine with 2-amino-4-methylthiazole to react with 4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid, the title compound was obtained as a white powder in 41% yield: mp 197-198° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 11.54 (br s, 1H), 7.87 (d, J=6.0 Hz, 2H), 7.37 (d, J=6.0 Hz, 2H), 6.52 (s, 1H), 6.43 (s, 1H), 4.53 (s, 2H), 4.11-4.06 (m, 2H), 3.46-3.41 (m, 2H), 2.30 (s, 3H), 1.97 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 164.8, 158.9, 158.7, 156.0, 147.3, 146.9, 141.2, 132.1, 128.5, 128.3, 108.6, 106.9, 47.7, 42.3, 42.0, 17.3, 16.6; MS (ES+) m/z 414.1 (M+1).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-amino-4-methylthiazole | NC=1SC=C(N1)C | C4H6N2S
reactant | 4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid | CC=1N=C(SC1)N1C(N(CC1)CC1=CC=C(C(=O)O)C=C1)=O | C15H15N3O3S
product | N-(4-methylthiazol-2-yl)-4-((3-(4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzamide | 41% yield | CC=1N=C(SC1)NC(C1=CC=C(C=C1)CN1C(N(CC1)C=1SC=C(N1)C)=O)=O | C19H19N5O2S2
